* Frozen netlist snapshot for record 20260806-140624-4f71285
* source     : sim/device-switch-ron/testbench/tb_switch_ron.spice
* sha256     : e45511ad069f4f7254e5e39ce7f4d294599fa3c882552cd504da2e57af0dd629
* This is a verbatim copy taken at record time. Do not edit.
* tb_switch_ron -- sampling-switch on-resistance vs input voltage
*
* Netlist FRAGMENT. The harness supplies the models, the corner .lib
* sections, .temp, the .control block and .end. Parameters provided by the
* harness: vdd_val, vdd_nom, temp_c.
*
* Question this answers (feeds #10, switch topology): how flat is R_on across
* the input range for an NMOS-only, a PMOS-only and a transmission-gate
* sampling switch, and which PVT corner is worst?
*
* Method. Each branch holds the switch source at a fixed input voltage and
* forces V_ds = 10 mV across the channel -- deep triode, small enough that
* R_on = 10 mV / |I| is the small-signal channel resistance rather than a
* large-signal average. One 10 mV source per branch means its current IS the
* channel current, with no divider or probe to correct for.
*
* WHY THE INPUT POINTS TRACK THE SUPPLY. The input is swept as a fraction of
* vdd_val, not as a fixed 0-3.3 V ladder. At the low-supply corner (2.97 V) a
* 3.3 V input would sit 330 mV above the rail: the PMOS source-body junction
* forward-biases and the "R_on" measured there is a forward-biased diode, not
* a switch. Sweeping f * vdd_val characterises each supply corner across its
* own rail-to-rail range, which is the physically meaningful comparison.
* (That a 0-3.3 V input range is NOT samplable at a drooped 2.97 V supply is
* itself a finding for #1/#10; see the characterization report.)
*
* Body connections are the single-well reality: NMOS body to ground, PMOS
* body to vdd. R_on therefore carries the body effect, which is most of the
* reason the NMOS degrades toward the top of the range.
*
* Device sizing. W is a free variable for #10 -- R_on scales as 1/W to first
* order -- so this testbench pins one geometry and reports the resistance for
* it: NMOS W = 10 um, PMOS W = 20 um (2:1 for the mobility ratio), both at
* L = 0.28 um (the 3.3 V minimum). The transmission gate is exactly those two
* devices in parallel. Scale by 10 um / W_actual to re-use these numbers.

vsup vdd 0 dc {vdd_val}

* ---- input ladder: 7 points from rail to rail ----------------------------
vin_f00  nf00  0 dc 0
vin_f17  nf17  0 dc {vdd_val/6}
vin_f33  nf33  0 dc {vdd_val/3}
vin_f50  nf50  0 dc {vdd_val/2}
vin_f67  nf67  0 dc {2*vdd_val/3}
vin_f83  nf83  0 dc {5*vdd_val/6}
vin_f100 nf100 0 dc {vdd_val}

* ===========================================================================
* NMOS-only switch, gate hard on at vdd
vdn_f00  ndn_f00  nf00  dc 10m
XN_f00   ndn_f00  vdd nf00  0 nfet_03v3 w=10u l=0.28u
vdn_f17  ndn_f17  nf17  dc 10m
XN_f17   ndn_f17  vdd nf17  0 nfet_03v3 w=10u l=0.28u
vdn_f33  ndn_f33  nf33  dc 10m
XN_f33   ndn_f33  vdd nf33  0 nfet_03v3 w=10u l=0.28u
vdn_f50  ndn_f50  nf50  dc 10m
XN_f50   ndn_f50  vdd nf50  0 nfet_03v3 w=10u l=0.28u
vdn_f67  ndn_f67  nf67  dc 10m
XN_f67   ndn_f67  vdd nf67  0 nfet_03v3 w=10u l=0.28u
vdn_f83  ndn_f83  nf83  dc 10m
XN_f83   ndn_f83  vdd nf83  0 nfet_03v3 w=10u l=0.28u
vdn_f100 ndn_f100 nf100 dc 10m
XN_f100  ndn_f100 vdd nf100 0 nfet_03v3 w=10u l=0.28u

* ===========================================================================
* PMOS-only switch, gate hard on at 0
vdp_f00  ndp_f00  nf00  dc 10m
XP_f00   ndp_f00  0 nf00  vdd pfet_03v3 w=20u l=0.28u
vdp_f17  ndp_f17  nf17  dc 10m
XP_f17   ndp_f17  0 nf17  vdd pfet_03v3 w=20u l=0.28u
vdp_f33  ndp_f33  nf33  dc 10m
XP_f33   ndp_f33  0 nf33  vdd pfet_03v3 w=20u l=0.28u
vdp_f50  ndp_f50  nf50  dc 10m
XP_f50   ndp_f50  0 nf50  vdd pfet_03v3 w=20u l=0.28u
vdp_f67  ndp_f67  nf67  dc 10m
XP_f67   ndp_f67  0 nf67  vdd pfet_03v3 w=20u l=0.28u
vdp_f83  ndp_f83  nf83  dc 10m
XP_f83   ndp_f83  0 nf83  vdd pfet_03v3 w=20u l=0.28u
vdp_f100 ndp_f100 nf100 dc 10m
XP_f100  ndp_f100 0 nf100 vdd pfet_03v3 w=20u l=0.28u

* ===========================================================================
* Transmission gate: the same two devices in parallel
vdt_f00  ndt_f00  nf00  dc 10m
XTN_f00  ndt_f00  vdd nf00  0   nfet_03v3 w=10u l=0.28u
XTP_f00  ndt_f00  0   nf00  vdd pfet_03v3 w=20u l=0.28u
vdt_f17  ndt_f17  nf17  dc 10m
XTN_f17  ndt_f17  vdd nf17  0   nfet_03v3 w=10u l=0.28u
XTP_f17  ndt_f17  0   nf17  vdd pfet_03v3 w=20u l=0.28u
vdt_f33  ndt_f33  nf33  dc 10m
XTN_f33  ndt_f33  vdd nf33  0   nfet_03v3 w=10u l=0.28u
XTP_f33  ndt_f33  0   nf33  vdd pfet_03v3 w=20u l=0.28u
vdt_f50  ndt_f50  nf50  dc 10m
XTN_f50  ndt_f50  vdd nf50  0   nfet_03v3 w=10u l=0.28u
XTP_f50  ndt_f50  0   nf50  vdd pfet_03v3 w=20u l=0.28u
vdt_f67  ndt_f67  nf67  dc 10m
XTN_f67  ndt_f67  vdd nf67  0   nfet_03v3 w=10u l=0.28u
XTP_f67  ndt_f67  0   nf67  vdd pfet_03v3 w=20u l=0.28u
vdt_f83  ndt_f83  nf83  dc 10m
XTN_f83  ndt_f83  vdd nf83  0   nfet_03v3 w=10u l=0.28u
XTP_f83  ndt_f83  0   nf83  vdd pfet_03v3 w=20u l=0.28u
vdt_f100 ndt_f100 nf100 dc 10m
XTN_f100 ndt_f100 vdd nf100 0   nfet_03v3 w=10u l=0.28u
XTP_f100 ndt_f100 0   nf100 vdd pfet_03v3 w=20u l=0.28u
